US07414142B2
To a stirred solution of 5-bromoindan-1-one oxime (0.25 g, 1.10 mmol) in glyme (11 mL) was added 3-cyanophenyl boronic acid (0.21 g, 1.44 mmol), sodium carbonate (0.35 g, 3.30 mmol) dissolved in deionized (D.I.) water (2 mL), and tetrakis(triphenylphosphine) palladium (0) (0.06 g, 0.05 mmol). The resulting solution was heated to reflux for 2 hours. The solution was cooled to room temperature and partitioned between ammonium chloride solution (sat.) and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated. The residue was purified on a silica gel column (20% ethyl acetate/hexane) and triturated with ether to give 3-[(1E)-1-(hydroxyimino)-2,3-dihydro-1H-inden-5-yl]benzonitrile as a white solid (0.12 g, 43%). MS (ESI) m/z 249; HRMS: calcd for C16H12N2O+H+, 249.10224; found (ESI, [M+H]+), 249.1033.

reactant | 5-bromoindan-1-one oxime | 1.10 mmol, 0.25 g | BrC=1C=C2CCC(C2=CC1)=NO | C9H8BrNO
reactant | 3-cyanophenyl boronic acid | 1.44 mmol, 0.21 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | sodium carbonate | 3.30 mmol, 0.35 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | glyme | 11 mL | C(OC)COC | C4H10O2
solvent | water | 2 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.05 mmol, 0.06 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-[(1E)-1-(hydroxyimino)-2,3-dihydro-1H-inden-5-yl]benzonitrile | 0.12 g, 43% | O\N=C\1/CCC2=CC(=CC=C12)C=1C=C(C#N)C=CC1 | C16H12N2O
